US20010047031A1
A mixture containing 3-butyn-1-ol 4-methylbenzenesulfonate (0.45 g, 2 mmol), iodobenzene (0.45 g, 2.2 mmol), CuI (0.038 g, 0.2 mmol), triethylamine (1.01 g, 10 mmol) and tetrakis(triphenylphosphine)palladium (0.12 g, 0.1 mmol) in toluene (10 ml) was stirred 30 minutes at room temperature, and 2 hours at 65° C. The reaction mixture was cooled to room temperature, diluted with ethylacetate (10 ml), washed with H2O (10 ml), dried over Na2SO4, and concentrated. The residue was chromatographed over silica gel (hexane-ethylacetate 9:1 then 4:1) to provide toluene-4-sulfonic acid 4-phenyl-but-3-ynyl ester (0.35 g. 58%) as a brown oil, MS: m/e=300 (M+).

reactant | 3-butyn-1-ol 4-methylbenzenesulfonate | 2 mmol, 0.45 g | C(CC#C)O.CC1=CC=C(C=C1)S(=O)(=O)[O-]
reactant | iodobenzene | 2.2 mmol, 0.45 g | IC1=CC=CC=C1 | C6H5I
reactant | triethylamine | 10 mmol, 1.01 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethylacetate | 10 ml | C(C)OC(C)=O | C4H8O2
catalyst | CuI | 0.2 mmol, 0.038 g | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium | 0.1 mmol, 0.12 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | toluene-4-sulfonic acid 4-phenyl-but-3-ynyl ester | 0.35 g, 58% | C1(=CC=CC=C1)C#CCCOS(=O)(=O)C1=CC=C(C=C1)C | C17H16O3S
